US05430032
1-(8-CHLORO-5,11-DIHYDRO[1]BENZOTHIEPINO[4,3-b]PYRIDIN-11-YL)-4-(4-PYRIDINYLCARBONYL)PIPERAZINE N4 -OXIDE
To a stirred suspension of 8-chloro-5,11-dihydro-11-(1-piperazinyl)[1]benzothiepino[4,3-b]pyridine (251 mg, 0.762 mmol) and isonicotinic acid N-oxide (128 mg, 0.918 mmol) in dry dichloromethane (20 mL), add 1-hydroxybenzotriazole hydrate (123 mg, 0.909 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (175 mg, 0.912 mmol). Stir the resultant mixture at room temperature for 3 hours. Wash the reaction mixture successively with 2.5M aqueous sodium hydroxide (5 mL), water (4×10 mL), and brine (15 mL). Dry the washed solution over anhydrous magnesium sulfate, filter out the drying agent, and remove solvent from the filtrate under reduced pressure. Flash chromatograph the residue on silica gel, eluting with methanol/dichloromethane (1:9) to obtain the title compound as a 3/4 hydrate (240 mg, 70% yield): mp 162°-165.5° C. (melts to a viscous gum); MS (FAB) m/z 450 [M+ +1].

reactant | 8-chloro-5,11-dihydro-11-(1-piperazinyl)[1]benzothiepino[4,3-b]pyridine | 0.762 mmol, 251 mg | ClC1=CC2=C(C(C3=NC=CC=C3CS2)N2CCNCC2)C=C1 | C17H18ClN3S
reactant | isonicotinic acid N-oxide | 0.918 mmol, 128 mg | C(C1=CC=[N+](C=C1)[O-])(=O)O | C6H5NO3
reactant | 1-hydroxybenzotriazole hydrate | 0.909 mmol, 123 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.912 mmol, 175 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(8-CHLORO-5,11-DIHYDRO[1]BENZOTHIEPINO[4,3-b]PYRIDIN-11-YL)-4-(4-PYRIDINYLCARBONYL)PIPERAZINE N4 -OXIDE | ClC1=CC2=C(C(C3=NC=CC=C3CS2)N2CC[N+](CC2)(C(=O)C2=CC=NC=C2)[O-])C=C1 | C23H21ClN4O2S
